US07135486B1
N-(2-{[6-Amino-3,5-dicyano-4-(4-hydroxyphenyl)-2-pyridinyl]sulfanyl}ethyl)-acetamide
At RT 60 mg (0.2 mmol) of 2-amino-6-[(2-aminoethyl)sulfanyl]-4-(4-hydroxyphenyl)-3,5-pyridinedicarbonitrile and 30 mg (0.3 mmol) of N-acetylimidazole are stirred in 0.5 ml of DMF for 1 hour. Water is slowly added dropwise, the mixture becomes slightly turbid and the crude product crystallizes out. The product is filtered off with suction, washed with water and dried under reduced pressure. This gives 53 mg of yellow crystals. The crystals are dissolved in 1 ml of a 1:1 mixture of CH2Cl2/CH3OH, and a few drops of concentrated ammonia are added (removal of diacetylated byproduct). The mixture is stirred at RT for 5 hours. The product crystallizes out when the reaction solution is concentrated. The product is filtered off with suction and washed with methanol.

reactant | 2-amino-6-[(2-aminoethyl)sulfanyl]-4-(4-hydroxyphenyl)-3,5-pyridinedicarbonitrile | 0.2 mmol, 60 mg | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)O)C#N)SCCN | C15H13N5OS
reactant | N-acetylimidazole | 0.3 mmol, 30 mg | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | Water | O | H2O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | N-(2-{[6-Amino-3,5-dicyano-4-(4-hydroxyphenyl)-2-pyridinyl]sulfanyl}ethyl)-acetamide | NC1=C(C(=C(C(=N1)SCCNC(C)=O)C#N)C1=CC=C(C=C1)O)C#N | C17H15N5O2S
